US08044062B2
To the 4-chloro-6-methyl-2-(methylthio)pyrimidine from above was added 30 mL of a solution of 70% ethylamine in water. The reaction mixture was heated to 50° C. for 3 h. After completion, excess ethylamine was evaporated on rotary evaporator under vacuum. The solid was filtered and dried under vacuum to afford N-ethyl-6-methyl-2-(methylthio)pyrimidin-4-amine (20 g, 90% yield).

reactant | 4-chloro-6-methyl-2-(methylthio)pyrimidine | ClC1=NC(=NC(=C1)C)SC | C6H7ClN2S
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | N-ethyl-6-methyl-2-(methylthio)pyrimidin-4-amine | 20 g, 90% yield | C(C)NC1=NC(=NC(=C1)C)SC | C8H13N3S
